US07531542B2
2-(4-Formyl-imidazol-1-yl)-acetamide:
A solution of 1H-imidazole-4-carbaldehyde (1.92 g, 20 mmol) in anhydrous THF (32 mL) and DMF (8 mL) was treated with sodium hydride (60% dispersion in mineral oil, 880 mg, 22 mmol) for 5 mins. 2-Bromoacetamide (3.59 g, 26 mmol) was added and the reaction was stirred continuously overnight. The THF was concentrated, loaded on a silica column, and eluted with 20% methanol in dichloromethane. The solvent was evaporated to yield 2.70 g of the product as a white solid (88.2%). HPLC Method D, r.t.=1.5 min, (96.4% purity at 256 nm). LC/MS calculated mass=153.14, [M−H]−=152, [M+H]+=154.

reactant | 1H-imidazole-4-carbaldehyde | 20 mmol, 1.92 g | N1C=NC(=C1)C=O | C4H4N2O
reactant | sodium hydride | 22 mmol, 880 mg | [H-].[Na+]
reactant | 2-Bromoacetamide | 26 mmol, 3.59 g | BrCC(=O)N | C2H4BrNO
solvent | THF | 32 mL | C1CCOC1 | C4H8O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-(4-Formyl-imidazol-1-yl)-acetamide | 2.70 g, 88.2% | C(=O)C=1N=CN(C1)CC(=O)N | C6H7N3O2
